US08669266B2
(ii) 4-[(S)-2-Amino-4-(2-methyl-2H-tetrazol-5-yl)-butyryl]-piperazine-1-carboxylic acid butyl ester hydrotrifluoroacetate
To a solution of 806 mg 4-[(S)-2-tert-Butoxycarbonylamino-4-(2-methyl-2H-tetrazol-5-yl)-butyryl]-piperazine-1-carboxylic acid butyl ester in 8 ml dichloromethane were added 1.3 ml TFA. After 12 h stirring at RT the solvents were removed and the residue was codistilled twice with toluene. Yield: 1.18 g.

reactant | 4-[(S)-2-tert-Butoxycarbonylamino-4-(2-methyl-2H-tetrazol-5-yl)-butyryl]-piperazine-1-carboxylic acid butyl ester | 806 mg | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CCC=1N=NN(N1)C)NC(=O)OC(C)(C)C)=O | C20H35N7O5
reactant | TFA | 1.3 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | 4-[(S)-2-Amino-4-(2-methyl-2H-tetrazol-5-yl)-butyryl]-piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CCC=1N=NN(N1)C)N)=O | C15H27N7O3
